US04782168
After adding 7.9 g (0.1 moles) of pyridine and 7.8 g (0.1 moles) of acetyl chloride to 100 ml of dehydrated dimethylformamide and cooling the mixture with ice, 11.3 g (0.05 moles) of stegobiol were dripped and agitated at 20° at 25° C. for 10 hours to provide 12.1 g of 2,3-dihydro-2,3,5-trimethyl-6-(1-methyl-1-acetoxyethyl)-4H-pyran-4-on. The yield was 90%.

reactant | pyridine | 0.1 moles, 7.9 g | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.1 moles, 7.8 g | C(C)(=O)Cl | C2H3ClO
reactant | stegobiol | 0.05 moles, 11.3 g | CC[C@@H]([C@H](C)C1=C(C(=O)[C@@H]([C@@H](O1)C)C)C)O | C13H22O3
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2,3-dihydro-2,3,5-trimethyl-6-(1-methyl-1-acetoxyethyl)-4H-pyran-4-on | 12.1 g, yield was 90% | CC1OC(=C(C(C1C)=O)C)C(C)(OC(C)=O)C | C13H20O4
